US07081506B2
Dibenzoylbis(1-naphthylimino)pyridine
TiCl4 (0.4 ml, 3.5 mmol) in toluene (20 ml) was added to a mixture of dibenzoylpyridine (0.91 g, 3.2 mmol) and 1-naphthylamine (2.90 g, 17 mmol) in toluene (50 ml) at 0° C. After the addition was complete, the reaction was stirred at room temperature for 1 hour and then under refluxed for 3 hours. The solid was filtered and washed with toluene. The solvent was removed under vacuum. The ligand was isolated after the column chromatography (hexane/ethyl acetate=5/1) to produce a yield of 0.65 g.

reactant | dibenzoylpyridine | 3.2 mmol, 0.91 g | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)C(C1=CC=CC=C1)=O | C19H13NO2
reactant | 1-naphthylamine | 17 mmol, 2.90 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | 3.5 mmol, 0.4 ml | Cl[Ti](Cl)(Cl)Cl
product | Dibenzoylbis(1-naphthylimino)pyridine | C(C1=CC=CC=C1)(=O)C1=C(C(C(N=C1)=NC1=CC=CC2=CC=CC=C12)=NC1=CC=CC2=CC=CC=C12)C(C1=CC=CC=C1)=O | C39H25N3O2
